US09388189B2
(S)—N-(4-(4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-1H-indazol-6-yl)methanesulfonamide
(S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (25 mg, 0.04 mmol) was treated with N-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazol-6-yl)methanesulfonamide (35 mg, 0.10 mmol), sodium carbonate (11 mg, 0.10 mmol), 1,1′-Bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (10 mg, 0.01 mmol) and 2 ml 1,2-dimethoxyethane and 1 ml water as a solvents according to the method described in Preparation 62. The residue was purified using SP1® Purification System (hexane-ethyl acetate) to obtain 13 mg (42% yield) of the title compound. Purity 98%.

reactant | (S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.04 mmol, 25 mg | BrC1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C27H32BrN7O2Si
reactant | N-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazol-6-yl)methanesulfonamide | 0.10 mmol, 35 mg | CC1(OB(OC1(C)C)C1=C2C=NNC2=CC(=C1)NS(=O)(=O)C)C | C14H20BN3O4S
reactant | sodium carbonate | 0.10 mmol, 11 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 2 ml | COCCOC | C4H10O2
solvent | water | 1 ml | O | H2O
product | (S)—N-(4-(4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-1H-indazol-6-yl)methanesulfonamide | 13 mg, 42% yield | CC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC=2C1=C(N=CN2)N(C=C1C1=C2C=NNC2=CC(=C1)NS(=O)(=O)C)COCC[Si](C)(C)C | C35H40N10O4SSi
